US07115611B2
D] 2-Methyl-2-{2-methyl-4-[6-(4-trifluoromethoxy-phenyl)-2-trifluoromethyl-pyridin-3-ylmethoxy]-phenoxy}-propionic acid
In analogy to the procedure described in example 26C], 2-methyl-2-{2-methyl-4-[6-(4-trifluoromethoxy-phenyl)-2-trifluoromethyl-pyridin-3-ylmethoxy]-phenoxy}-propionic acid ethyl ester was treated with 1 N aqueous LiOH solution to give the title compound as colorless oil.

reactant | 2-methyl-2-{2-methyl-4-[6-(4-trifluoromethoxy-phenyl)-2-trifluoromethyl-pyridin-3-ylmethoxy]-phenoxy}-propionic acid ethyl ester | C(C)OC(C(C)(OC1=C(C=C(C=C1)OCC=1C(=NC(=CC1)C1=CC=C(C=C1)OC(F)(F)F)C(F)(F)F)C)C)=O | C27H25F6NO5
reactant | LiOH | 1 N | [Li+].[OH-]
product | 2-Methyl-2-{2-methyl-4-[6-(4-trifluoromethoxy-phenyl)-2-trifluoromethyl-pyridin-3-ylmethoxy]-phenoxy}-propionic acid | CC(C(=O)O)(C)OC1=C(C=C(C=C1)OCC=1C(=NC(=CC1)C1=CC=C(C=C1)OC(F)(F)F)C(F)(F)F)C | C25H21F6NO5
